US09126931B2
2-Bromo-8-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile
8-Methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile (Compound A5-2, 50 mg, 0.158 mmol) was dissolved in CH3CN (1 mL), added with NBS (56 mg, 2 eq.), and stirred at 80° C. overnight. The reaction solution was added to water, and then extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over sodium sulfate. The drying agent was removed by filtration and the residues obtained after concentration under reduced pressure were added with MeOH and the solid remained after dissolution was filtered to obtain the target compound (yellow powder, 20 mg, 38%).

reactant | 8-Methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 0.158 mmol, 50 mg | COC=1C=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C1 | C20H16N2O2
reactant | NBS | 56 mg, 2 eq. | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | water | O | H2O
solvent | CH3CN | 1 mL | CC#N | C2H3N
product | 2-Bromo-8-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | BrC=1C=C2C=3C(C4=C(C(C3NC2=CC1C#N)(C)C)C=C(C=C4)OC)=O | C20H15BrN2O2
